US05280027
Using an analogous procedure to that described in Example 4, N-[2-hydroxy-1-(3-nitrophenyl)ethyl]-p-[N-(2-methyl-4-oxo-3,4-dihydroquinazolin-6-ylmethyl)-N-(prop-2-ynyl)amino]benzamide was reacted with acetic anhydride to give N-[2-acetoxy-1-(3-nitrophenyl)ethyl]-p-[N-(2-methyl-4-oxo-3,4-dihydroquinazolin-6-ylmethyl)-N-(prop-2-ynyl)amino]benzamide (containing 2 equivalents of water) in 56% yield, m.p. 133°-135° C.

reactant | N-[2-hydroxy-1-(3-nitrophenyl)ethyl]-p-[N-(2-methyl-4-oxo-3,4-dihydroquinazolin-6-ylmethyl)-N-(prop-2-ynyl)amino]benzamide | OCC(C1=CC(=CC=C1)[N+](=O)[O-])NC(C1=CC=C(C=C1)N(CC#C)CC=1C=C2C(NC(=NC2=CC1)C)=O)=O | C28H25N5O5
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | N-[2-acetoxy-1-(3-nitrophenyl)ethyl]-p-[N-(2-methyl-4-oxo-3,4-dihydroquinazolin-6-ylmethyl)-N-(prop-2-ynyl)amino]benzamide | 2 equivalents, 56% yield | C(C)(=O)OCC(C1=CC(=CC=C1)[N+](=O)[O-])NC(C1=CC=C(C=C1)N(CC#C)CC=1C=C2C(NC(=NC2=CC1)C)=O)=O | C30H27N5O6
